data/oMe_Silver.jsonl
{"reaction_id": "NR-213_1-c2ccc(Cl)cc2_2-c2cccs2_3-c2ccccc2_4-C#N","level": "medium","name": "Payne Epoxidation","reactants_smiles": ["OO","N#C(c2ccc(Cl)cc2)","C(c2cccs2)=C(c2ccccc2)(C#N)"],"products_smiles": ["C(c2cccs2)1OC1(c2ccccc2)(C#N)"],"conditions": "base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]O","step_weight": 0,"rationale": "Base deprotonates hydrogen peroxide, generating a hydroperoxide anion stabilized by resonance and inductive effects, increasing nucleophilicity for the next step."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[N-]=C(OO)(c2ccc(Cl)cc2)","step_weight": 0,"rationale": "The hydroperoxide anion attacks the electrophilic carbon of the isocyanide, whose electron-deficient nature arises from the polarized C≡N bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OOC(=N)(c2ccc(Cl)cc2)","step_weight": 0,"rationale": "Proton transfer converts the anionic intermediate into a neutral peroxyimidate, stabilizing the leaving group for the upcoming oxygen transfer."},{"step": 4,"type": "pericyclic","subtype": "group_transfer","intermediate_smiles": "C(c2cccs2)1OC1(c2ccccc2)(C#N)","step_weight": 0,"rationale": "A concerted pericyclic oxygen transfer occurs, driven by the electrophilicity of the alkene and the strong thermodynamic preference for forming the stable three-membered epoxide ring."}],"description": "Under basic conditions, hydrogen peroxide is deprotonated to form a more nucleophilic hydroperoxide anion, which attacks the electrophilic carbon of an isocyanide to form a peroxyimidate. Subsequent proton transfer and a concerted oxygen transfer to the alkene yield the epoxide via a Payne-type mechanism."}
{"reaction_id": "NG-007_1-c1ccc(OC)cc1_2-c1ccc(F)cc1_3-c1ccc(N(=O)=O)cc1","name": "Appel reaction","level": "medium","reactants_smiles": ["C(c1ccc(OC)cc1)(c1ccc(F)cc1)(c1ccc(N(=O)=O)cc1)O"],"products_smiles": ["C(c1ccc(OC)cc1)(c1ccc(F)cc1)(c1ccc(N(=O)=O)cc1)Br"],"conditions": "Ph3P, CBr4","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[P+](c1ccccc1)(c1ccccc1)(c1ccccc1)Br.[C-](Br)(Br)Br","rationale": "Triphenylphosphine, a strong nucleophile due to its lone pair on phosphorus, attacks electrophilic CBr4, displacing bromide and forming a bromophosphonium species stabilized by the electron-withdrawing phenyl groups."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]C(c1ccc(OC)cc1)(c1ccc(F)cc1)(c1ccc(N(=O)=O)cc1).BrC(Br)(Br)","rationale": "Bromide, a good base under these conditions, abstracts the acidic proton from the alcohol, driven by the formation of a resonance-stabilized alkoxide and the high acidity of the proton in polarizable medium."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[P+](OC(c1ccc(OC)cc1)(c1ccc(F)cc1)(c1ccc(N(=O)=O)cc1))(c1ccccc1)(c1ccccc1)c1ccccc1.[Br-]","rationale": "The alkoxide, a strong nucleophile, attacks the electrophilic phosphorus center of the bromophosphonium ion, favored by phosphorus's ability to expand its coordination number and the poor leaving group ability of bromide from carbon."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c1ccc(OC)cc1)(c1ccc(F)cc1)(c1ccc(N(=O)=O)cc1)Br.O=P(c1ccccc1)(c1ccccc1)c1ccccc1","rationale": "Bromide attacks the electrophilic carbon in the oxyphosphonium intermediate via SN2, favored by the excellent leaving group ability of triphenylphosphine oxide and the strong nucleophilicity of bromide."}],"description": "In the Appel reaction, triphenylphosphine reacts with carbon tetrabromide to generate an electrophilic bromophosphonium species and bromide. The alcohol is deprotonated, then the alkoxide attacks the phosphonium center, forming an oxyphosphonium intermediate. Bromide then displaces the oxygen, yielding the alkyl bromide and triphenylphosphine oxide."}
